US05041543
To a solution of 3'-azido-3'-deoxythymidine (AZT) 20 g) in pyridine (50 mL) at ambient temperature, acetyl chloride (2.1 equivalents) was added. The reaction was stirred for two hours and kept at 0° at 5° C. for 20 hours. It was poured onto ice water with stirring. The aqueous phase was decanted. The oily product was dissolved in ethyl acetate and extracted with water (5 times), 0.5 N hydrochloric acid, water (2x), and dried over magnesium sulphate. The solution was filtered and evaporated in vacuo. The residual oil was dissolved in chloroform, applied to a silica gel column, and flash chromatographed using 2% methanol in chloroform. Fractions with product were evaporated and the oil was chromatographed again using ethyl acetate:hexane (6:4 v/v). Fractions with product were evaporated in vacuo to give 5'-O-acetyl-3'-azido-3'-deoxythymidine as a white solid.

reactant | 3'-azido-3'-deoxythymidine | 20 g | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1 | C10H13N5O4
reactant | acetyl chloride | 2.1 equivalents | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 5'-O-acetyl-3'-azido-3'-deoxythymidine | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)N=[N+]=[N-] | C12H15N5O5
